US04997840
7-Fluoro-3-hydroxy-1 -methyl-4-quinolone (4.5 g) was added to a solution of sodium hydroxide (12 g) in water (56 ml) and the mixture stirred at 0 to 5° with ice/water cooling. Methanesulphonyl chloride (4 ml) was added over a period of 1 5 minutes followed by aqueous sodium hydroxide (5M, 3 ml). The resultant solid was collected by filtration, washed with water (2×20 ml), and crystallised from industrial methylated spirit (220 ml) to give the novel compound 7-fluoro-]-methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate, m.p. 212°-213°.

reactant | 7-Fluoro-3-hydroxy-1 -methyl-4-quinolone | 4.5 g | FC1=CC=C2C(C(=CN(C2=C1)C)O)=O | C10H8FNO2
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | Methanesulphonyl chloride | 4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 5M, 3 ml | [OH-].[Na+]
solvent | water | 56 ml | O | H2O
product | methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate | CS(=O)(=O)OC1=CN(C2=CC=CC=C2C1=O)C | C11H11NO4S
